Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
EGD

 
History of Present Illness:
Mr. ___ is a ___ man with no past medical history
who presents with syncope.

The patient reports that he was mostly in his usual state of
health prior to admission. He notes that he had 3 beers on the
evening ___, which is atypical for him, and the following day 
he
had abdominal pain, gas, and bloating. He has had these symptoms
for many years, and there is no clear relationship to food and
the symptoms have persisted despite elimination diets. He is
unsure whether he has had blood in his stools in the days and
weeks preceding admission, but he does not that in retrospect 
his
stools have appeared darker than normal. He drinks alcohol
socially. No NSAIDs.

On the evening prior to admission, he took three Benadryls for
seasonal allergy symptoms. On the day of admission, he went to
work in a research lab at ___. He typically eats crackers and
coffee for breakfast and lunch, and then has a large dinner. 
This
was the case on the day of admission. He reports that he was on
his way back from ___ when he felt a warmth that began in
his abdomen and then spread to his whole body. This was
associated with chest pain, palpitations, diaphoresis, tunnel
vision, and the premonition that he was going to lose
consciousness. He called a friend who is a surgical resident, 
and
he subsequently lose consciousness. When he regained
consciousness, he was lying on the floor and felt completely
well. About 5 minutes later, he began to sit up and again felt
dizzy like he would pass out. He drank 3 Gatorades and ate a
muffin and felt "great." However, when he tried to get up again
he felt dizzy, so his friend brought him to the ED. While in the
waiting room of the ED, he had his blood drawn and subsequently
felt dizzy and felt his vision begin to blur and he lost
consciousness again. He reports that he has never fainted
previously. No fevers or chills. No family history of sudden
cardiac death or syncope.

In the ED, vitals: 97.1 92 ___ 100% RA 
Exam notable for: No murmur, NAD, A&Ox4; Rectal exam with guaiac
positive brown stool
Labs notable for: WBC 10.2, Hb 12.9->9.6, plt 152->119
Consults: GI
Patient given: 2L LR, pantoprazole 40 mg IV

On arrival to the floor, the patient reports that he feels well
while lying down. 
 
ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
Seasonal allergies
 
Social History:
___
Family History:
Mother with ?vertigo. Father with ?lung problems.
Grandmother with ___. Uncle with CVA. No known family history 
of
CAD, sudden cardiac death, syncope.
 
Physical Exam:
ADMISSION EXAM:
VITALS: 98.0 126/79 89 18 98 RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4. No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally. Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation. Bowel
sounds present.
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: Very pleasant, appropriate affect

DISCHARGE EXAM:
___ 1523 Temp: 98.4 PO BP: 110/79 HR: 102 RR: 18 O2 sat: 
98%
O2 delivery: Ra 
GENERAL: Alert and in no apparent distress
CV: Heart regular, no murmur, no S3, no S4. No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally. Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation. Bowel
sounds present.
SKIN: No rashes or ulcerations noted
PSYCH: Very pleasant, appropriate affect

 
Pertinent Results:
ADMISSION LABS:
___ 03:26PM BLOOD WBC-10.2* RBC-4.39* Hgb-12.9* Hct-39.8* 
MCV-91 MCH-29.4 MCHC-32.4 RDW-12.7 RDWSD-41.5 Plt ___
___ 08:08PM BLOOD WBC-9.0 RBC-3.20* Hgb-9.6* Hct-28.4* 
MCV-89 MCH-30.0 MCHC-33.8 RDW-12.4 RDWSD-40.4 Plt ___
___ 03:26PM BLOOD Plt ___
___ 08:08PM BLOOD Plt ___
___ 03:26PM BLOOD Glucose-71 UreaN-34* Creat-0.9 Na-139 
K-5.3 Cl-101 HCO3-26 AnGap-12
___ 03:26PM BLOOD Iron-188*
___ 08:08PM BLOOD Ret Aut-1.6 Abs Ret-0.05
___ 06:25AM BLOOD Hapto-92
___ 03:26PM BLOOD calTIBC-278 Ferritn-222 TRF-214
___ 06:50AM BLOOD TSH-0.37
___ 08:00PM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG
___ 08:00PM BLOOD HCV Ab-NEG

INTERVAL DATA:
EGD on ___
Normal mucosa in whole esophagus, patchy erythema in the corpus 
compatable with non-erosive gastritis, ulcer in the anterior 
duodenal bulb

DISCHARGE LABS:

___ 05:50AM BLOOD WBC-9.1 RBC-3.12* Hgb-9.3* Hct-27.7* 
MCV-89 MCH-29.8 MCHC-33.6 RDW-12.9 RDWSD-41.1 Plt ___
___ 05:00PM BLOOD Hct-28.6*
___ 05:50AM BLOOD Glucose-101* UreaN-11 Creat-1.0 Na-143 
K-4.1 Cl-107 HCO3-26 AnGap-10

H pylori stool study pending 
 
Brief Hospital Course:
___ yo M with unremarkable past medical history who presents with 
syncope, found to have anemia and guaic positive stool 
concerning for GI bleed.  EGD with non-bleeding ulcer in 
anterior duodenal bulb is the suspected source. Hospital course 
complicated by leukocytosis, thrombocytopenia and sinus 
tachycardia.

# Syncope: 
Several syncopal episodes as outpatient prior to admission. 
Description indicates vasovagal syncope.  Likely ___ GI bleed vs 
dehydration due to decreased oral intake. No murmurs on exam to 
suggest valvular heart disease as cause of syncope. EKG
without any features to suggest malignant arrhythmia as a cause. 
 Telemetry monitoring did not show any arrhythmias.  He improved 
with IVF and treatment of anemia as below.  Etiology was likely 
vasovagal, as well as orthostatic, with significant blood loss 
anemia.

# Acute blood loss Anemia: 
# GI Hemorrhage
Noted to have dark, guaic positive stool in the ED.  Hemoglobin 
trend 12.9 --> 9.6. He underwent EGD on ___ which showed ulcer 
in the anterior duodenal bulb.  This is the most likely source 
of GI bleeding.  Labs were not consistent with hemolysis.  He is 
treated with a PPI BID x 8 weeks.  A stool sample was sent for h 
pylori testing. still pending at discharge.

# Thrombocytopenia:
Likely secondary to recent bleeding.  Hep B and C testing 
negative. 

# Leukocytosis
Leukocytosis developed day following EGD procedure.  He had 
chills overnight though no fevers.  ? translocation during EGD.  
No other infectious etiology was found and the leukocytosis 
improved without intervention.

# Sinus tachycardia
Thought ___ GI bleed.

TRANSITIONAL ISSUE:
[] stool h pylori pending - treat if positive

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. DiphenhydrAMINE ___ mg PO QHS:PRN Allergies 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Duodenal ulcer
Anemia
Syncope
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You came to the hospital after an episode of loss of 
consciousness at home.  You were found to have anemia (low blood 
counts), which was the result of bleeding from an ulcer in the 
small bowel.  Please take pantoprazole 40 mg twice daily for 8 
weeks to reduce stomach acid production.  Please also avoid 
NSAID medications such as ibuprofen, advil, motrin, etc.

Please see your primary care doctor in follow-up.  You had a 
sample sent to the lab to check for h pylori bacteria.  If this 
returns positive in the next week, you will need treatment for 
this.

Decrease your caffeine intake!

It was a pleasure taking care of you at ___!
-- Your medical team
 
Followup Instructions:
___